US04333760
2-Chloro-N-[(4-methylquinazolin-2-yl)aminocarbonyl]-pyridine-3-sulfonamide
To a dry, stirred solution of 8.0 g of 2-amino-4-methylquinazoline in 200 ml of methylene chloride at ambient temperature and pressure is added 13 g of 2-chloropyridin-3-sulfonylisocyanate. The resulting mixture is stirred at reflux for 2 hours and then concentrated at reduced pressure. The residue is triturated with 1-chlorobutane and filtered to yield the desired solid product.

reactant | 2-amino-4-methylquinazoline | 8.0 g | NC1=NC2=CC=CC=C2C(=N1)C | C9H9N3
reactant | 2-chloropyridin-3-sulfonylisocyanate | 13 g | ClC1=NC=CC=C1S(=O)(=O)N=C=O | C6H3ClN2O3S
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[(4-methylquinazolin-2-yl)aminocarbonyl]-pyridine-3-sulfonamide | ClC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC2=CC=CC=C2C(=N1)C | C15H12ClN5O3S
